US09145392B2
4-Amino-6-{4-[4-(4-fluoro-3-trifluoromethyl-phenyl)-1-methyl-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidine-5-carbaldehyde (“6”)
A mixture of 4-[4-(4-fluoro-3-trifluoromethyl-phenyl)-1-methyl-1h-imidazol-2-yl]-piperidine (600.00 mg; 1.83 mmol; 1.0 eq.), 4-amino-6-chloropyrimidine-5-carbaldehyde (303.25 mg; 1.92 mmol; 1.05 eq.), DIEA (0.95 ml; 5.5 mmol; 3.0 eq.) in acetonitrile (10.0 ml) was heated at 40° C. for 1 h. The reaction mixture was poured into water. The precipitate was filtered, washed with water and dried under vacuum to afford the title compound in 85% yield. LC-MS: (M+1=449, obsd.=449).

reactant | 4-[4-(4-fluoro-3-trifluoromethyl-phenyl)-1-methyl-1h-imidazol-2-yl]-piperidine | 1.83 mmol, 600.00 mg, 1.0 eq. | FC1=C(C=C(C=C1)C=1N=C(N(C1)C)C1CCNCC1)C(F)(F)F | C16H17F4N3
reactant | 4-amino-6-chloropyrimidine-5-carbaldehyde | 1.92 mmol, 303.25 mg, 1.05 eq. | NC1=NC=NC(=C1C=O)Cl | C5H4ClN3O
reactant | DIEA | 5.5 mmol, 0.95 ml, 3.0 eq. | CCN(C(C)C)C(C)C | C8H19N
reactant | water | O | H2O
solvent | acetonitrile | 10.0 ml | C(C)#N | C2H3N
product | 4-Amino-6-{4-[4-(4-fluoro-3-trifluoromethyl-phenyl)-1-methyl-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidine-5-carbaldehyde | 85% yield | NC1=NC=NC(=C1C=O)N1CCC(CC1)C=1N(C=C(N1)C1=CC(=C(C=C1)F)C(F)(F)F)C | C21H20F4N6O
